US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-1,2,3-triazole-5-carboxamide
Using 1-methyl-1H-1,2,3-triazole-5-carboxylic acid (99 mg, 0.78 mmol), tetrahydrofuran (4.0 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (135 μL, 1.55 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide (200 mg, 0.65 mmol) and N,N-dimethylacetamide (4.0 mL) as starting materials and in the same manner as in Example 119, the title compound (182 mg, 67%) was obtained as a white powder.

reactant | 1-methyl-1H-1,2,3-triazole-5-carboxylic acid | 0.78 mmol, 99 mg | CN1N=NC=C1C(=O)O | C4H5N3O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.55 mmol, 135 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide | 0.65 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-1,2,3-triazole-5-carboxamide | 182 mg, 67% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CN=NN2C)C1 | C20H18N8O3
